US04258187
A stirred mixture of 86.6 g (0.3 mole) of 6-chloro-3,4-dihydro-4-hydroxy-3-methyl-4-phenyl-2(1H)-quinazolinone and 62.5 g (0.9 mole) of hydroxylamine hydrochloride in 1500 ml ethanol was refluxed for 187 hr, and then cooled. The solid portion of the reaction mixture was collected on a filter, washed with ethanol, and dried in air to give 67.9 g (83%) of 6-chloro-4-phenyl-2(1H)-quinazolinone 3-oxide as yellow crystals: mp 267°-269°.

reactant | 6-chloro-3,4-dihydro-4-hydroxy-3-methyl-4-phenyl-2(1H)-quinazolinone | 0.3 mole, 86.6 g | ClC=1C=C2C(N(C(NC2=CC1)=O)C)(C1=CC=CC=C1)O | C15H13ClN2O2
reactant | hydroxylamine hydrochloride | 0.9 mole, 62.5 g | Cl.NO
solvent | ethanol | 1500 ml | C(C)O | C2H6O
product | 6-chloro-4-phenyl-2(1H)-quinazolinone 3-oxide | 67.9 g, 83% | ClC=1C=C2C(=[N+](C(NC2=CC1)=O)[O-])C1=CC=CC=C1 | C14H9ClN2O2
